US04990508
In 33 ml of methylene chloride was suspended 6.43 g of ethyl (S)-10-(1-aminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine- 6-carboxylate. To the resulting suspension was added 2.27 g of acetic anhydride with ice-cooling. The resulting mixture was stirred at room temperature for 1 hour, and 30 ml of water was added to the reaction mixture. The resulting crystals were collected by filtration to obtain 5.85 g (yield: 81.1%) of ethyl (S)-10-(1-acetylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate.

reactant | ethyl (S)-10-(1-aminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine- 6-carboxylate | 6.43 g | NC1(CC1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F | C18H19FN2O4
reactant | acetic anhydride | 2.27 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 30 ml | O | H2O
solvent | methylene chloride | 33 ml | C(Cl)Cl | CH2Cl2
product | ethyl (S)-10-(1-acetylaminocyclopropyl)-9-fluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 5.85 g, yield: 81.1% | C(C)(=O)NC1(CC1)C=1C(=CC2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F | C20H21FN2O5
